US07288544B2
4) Synthesis of 4-(3-chlorophenyl)-6-methyl-2-(methylthio)-5-pyrimidinecarboxylic acid:
1.44 g (4.47 mmol) of 4-(3-chlorophenyl)-6-methyl-2-(methylthio)-5-pyrimidinecarboxylic acid ethylester was dissolved in 10 ml of THF and 5 ml of water. 225 mg (5.36 mmol) of lithium hydroxide monohydrate was added and stirred at 50° C. for 12 hours. 10 ml of water was added thereto and the organic layer was batched off. The obtained aqueous layer was diluted with ethyl acetate and washed with 5 ml of 3 N hydrochloric acid and then with 5 ml of saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to obtain the title compound.

reactant | 4-(3-chlorophenyl)-6-methyl-2-(methylthio)-5-pyrimidinecarboxylic acid ethylester | 4.47 mmol, 1.44 g | C(C)OC(=O)C=1C(=NC(=NC1C)SC)C1=CC(=CC=C1)Cl | C15H15ClN2O2S
reactant | lithium hydroxide monohydrate | 5.36 mmol, 225 mg | O.[OH-].[Li+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 5 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 10 ml | O | H2O
product | 4-(3-chlorophenyl)-6-methyl-2-(methylthio)-5-pyrimidinecarboxylic acid | ClC=1C=C(C=CC1)C1=NC(=NC(=C1C(=O)O)C)SC | C13H11ClN2O2S
